US05849958
Preparation of p-Chloro-α-methylhydratroponitrile
A solution of (p-chlorophenyl)acetonitrile (30.32 g, 0.20 mol) in tetrahydrofuran is treated dropwise with lithium diisopropylamide (0.44 mol, 220 mL of a 2M solution in heptane/tetrahydrofuran/benzene) at -25° C. to -30° C. over 60 minutes under nitrogen, stirred at -15° C. for one hour, treated dropwise with a solution of iodomethane (62.45 g, 0.44 mol) in tetrahydrofuran at -15° C., stirred at -15° C. for one hour, and diluted with water. The aqueous solution is extracted with ether The organic extract is washed sequentially with water, 2N hydrochloric acid and water, dried over anhydrous sodium sulfate, and concentrated in vacuo to obtain an oily residue. The residue is distilled to give the title product as a colorless oil (32.6 g, bp 89°-91° C./1 mm Hg, 90.7% yield).

reactant | (p-chlorophenyl)acetonitrile | 0.20 mol, 30.32 g | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | iodomethane | 0.44 mol, 62.45 g | IC | CH3I
reactant | heptane tetrahydrofuran benzene | CCCCCCC.O1CCCC1.C1=CC=CC=C1
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | p-Chloro-α-methylhydratroponitrile | 32.6 g, 90.7% yield | ClC1=CC=C(C(C#N)(C)C)C=C1 | C10H10ClN
